US06747023B1
1-(tert-Butoxycarbonyl)-4-[[5-(4-pyridyl)pyrimidin-2-yl]carbonyl]piperazine
To a mixed solvent of dimethoxyethane (60 ml) and methanol (120 ml) were added 1-(tert-butoxycarbonyl)-4-[(5-bromopyrimidin-2-yl)carbonyl]piperazine (2.97 g), (pyridin-4-yl)boronic acid (1.48 g), cesium fluoride (4.25 g) and tetrakis(triphenylphosphine)palladium (924 mg). After purging with argon, the reaction mixture was refluxed for 19 hours. The solvent was then distilled off under reduced pressure. The residue was purified by moderate-pressure chromatography on a silica gel column (size D, methanol methylene chloride=1:9), whereby the title compound (1.31 g) was obtained as a colorless solid.

reactant | dimethoxyethane | 60 ml | C(OC)COC | C4H10O2
reactant | 1-(tert-butoxycarbonyl)-4-[(5-bromopyrimidin-2-yl)carbonyl]piperazine | 2.97 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=NC=C(C=N1)Br | C14H19BrN4O3
reactant | (pyridin-4-yl)boronic acid | 1.48 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | cesium fluoride | 4.25 g | [F-].[Cs+]
catalyst | tetrakis(triphenylphosphine)palladium | 924 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | methanol | 120 ml | CO | CH4O
product | 1-(tert-Butoxycarbonyl)-4-[[5-(4-pyridyl)pyrimidin-2-yl]carbonyl]piperazine | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=NC=C(C=N1)C1=CC=NC=C1 | C19H23N5O3
